US08809371B2
2,6-dichloro-5-fluoro-3-pyridinecarbonitrile (3.3 g) and potassium carbonate (1.1 g) were added to a DMF (5 ml) solution containing (R)-2-(2-aminopropyl)isoindoline-1,3-dione•hydrochloride (690 mg), followed by stirring with heating at 60° C. for 5.5 hours. The reaction solution was adjusted to room temperature, and a saturated aqueous sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the residue was purified by silica gel chromatography (n-hexane:ethyl acetate=7:3, and a yellow solid of (R)-2-chloro-6-((1-(1,3-dioxoisoindolin-2-yl)propan-2-yl)amino)-5-fluoronicotinonitrile (300 mg) was thus obtained.

reactant | 2,6-dichloro-5-fluoro-3-pyridinecarbonitrile | 3.3 g | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-2-(2-aminopropyl)isoindoline-1,3-dione•hydrochloride | 690 mg | N[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)C.Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (R)-2-chloro-6-((1-(1,3-dioxoisoindolin-2-yl)propan-2-yl)amino)-5-fluoronicotinonitrile | 300 mg | ClC1=C(C#N)C=C(C(=N1)N[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)C)F | C17H12ClFN4O2
